US06495546B1
Under nitrogen, to a solution of N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine (150 mg) in dichloromethane (5 ml) were added pyridine (64 ml), 4-nitrophenyl chloroformate (116 mg) and a catalytic amount of 4-dimethylaminopyridine at 5° C. After being stirred at the same temperature for 2 hours, to this one was added about 6.8M ammonia in ethanol (0.5 ml), and the mixture was stirred at room temperature for 12 hours. The resulting mixture was pured into water, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1) to give N-[(2S)-3-phenoxy-2-(triethyl-silyloxy)propyl]-N-[3-carbamoyloxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-tert-butoxycarbonylamine (129 mg).

reactant | N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine | 150 mg | OC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C31H47NO5Si
reactant | pyridine | 64 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 116 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ammonia | about 6.8M | N | H3N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-[(2S)-3-phenoxy-2-(triethyl-silyloxy)propyl]-N-[3-carbamoyloxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-tert-butoxycarbonylamine | 129 mg | O(C1=CC=CC=C1)C[C@H](CN(C1CC2=C(CCC1)C=CC(=C2)OC(N)=O)C(=O)OC(C)(C)C)O[Si](CC)(CC)CC | C32H48N2O6Si
